### PR TITLE
Wikipedia: Snake in the box

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

File: FormalConjectures/Wikipedia/SnakeInTheBox.lean [hunk 1]
```diff
@@ -0,0 +1,112 @@
...
+@[category research solved, AMS 5]
+theorem snake_small_dimensions :
+    map LongestSnakeInTheBox (range 9) = [0, 1, 2, 4, 7, 13, 26, 50, 98] := by
+  sorry
+
+/-
+For dimension $9$, the length of the longest snake in the box is not known.
+This is currently the smallest dimension where this question is open.
+--/
+@[category research open, AMS 5]
```
Comment (mo271) [inline FormalConjectures/Wikipedia/SnakeInTheBox.lean:100]:
```suggestion
@[category research solved, AMS 5]
```

File: FormalConjectures/Wikipedia/SnakeInTheBox.lean [hunk 2]
```diff
@@ -0,0 +1,112 @@
...
+@[category research solved, AMS 5]
+theorem snake_small_dimensions :
+    map LongestSnakeInTheBox (range 9) = [0, 1, 2, 4, 7, 13, 26, 50, 98] := by
+  sorry
+
+/-
+For dimension $9$, the length of the longest snake in the box is not known.
+This is currently the smallest dimension where this question is open.
+--/
+@[category research solved, AMS 5]
```
Comment (mo271) [inline FormalConjectures/Wikipedia/SnakeInTheBox.lean]:
```suggestion
@[category research open, AMS 5]
```

File: FormalConjectures/Wikipedia/SnakeInTheBox.lean [hunk 3]
```diff
@@ -0,0 +1,112 @@
...
+This is currently the smallest dimension where this question is open.
+--/
+@[category research open, AMS 5]
+theorem snake_dim_nine : LongestSnakeInTheBox 9 = answer(sorry) := by
+  sorry
+
+/-
+The best lengths found so far for dimension nine is 190.
+--/
+@[category research open, AMS 5]
```
Comment (mo271) [inline FormalConjectures/Wikipedia/SnakeInTheBox.lean]:
```suggestion
@[category research solved, AMS 5]
```

File: FormalConjectures/Wikipedia/SnakeInTheBox.lean [hunk 4]
```diff
@@ -0,0 +1,112 @@
...
+/-!
+# Snake in the box
+
+*References:*
+- [Wikipedia](https://en.wikipedia.org/wiki/Snake-in-the-box)
+- [xkcd](https://xkcd.com/3125/)
+-/
+
+universe u
+
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/SnakeInTheBox.lean:28]:
```suggestion

namespace SnakeInBox

```

File: FormalConjectures/Wikipedia/SnakeInTheBox.lean [hunk 5]
```diff
@@ -0,0 +1,112 @@
...
+$$
+1 + 2^{n-1}\frac{6n}{6n + \frac{1}{6\sqrt{6}}n^{\frac 1 2} - 7}.
+$$
+-/
+@[category research solved, AMS 5]
+theorem snake_upper_bound (n : ℕ) : LongestSnakeInTheBox n
+    ≤ (1 : ℝ) + 2^(n - 1) * (6 * n) / (6 * n + (1/(6 * (6 : ℝ).sqrt)*(n : ℝ).sqrt)) := by
+  sorry
+
+
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/SnakeInTheBox.lean]:
```suggestion
end SnakeInBox
```

File: FormalConjectures/Wikipedia/SnakeInTheBox.lean [hunk 6]
```diff
@@ -0,0 +1,112 @@
...
+open SimpleGraph
+
+def Hypercube (n : ℕ) : SimpleGraph (Finset (Fin n)) := fromRel fun a b => (a ∩ b).card = 1
+
+def IsSnakeInGraphOfLength {V : Type u} [DecidableEq V] (G : SimpleGraph V) (G' : Subgraph G)
+    (k : ℕ) : Prop :=
+  G'.IsInduced ∧ ∃ u v : V, ∃ (P : G.Walk u v), P.IsPath ∧ G'.verts = P.support.toFinset.toSet ∧
+  P.length = k
+
+noncomputable def LongestSnakeInGraph {V : Type u} [DecidableEq V] (G : SimpleGraph V) : ℕ :=
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/SnakeInTheBox.lean]: I think it would be good to have docstrings for these three definitions!

Comment (mo271) [reply FormalConjectures/Wikipedia/SnakeInTheBox.lean]: done

File: FormalConjectures/Wikipedia/SnakeInTheBox.lean [hunk 7]
```diff
@@ -0,0 +1,127 @@
...
+
+/--
+An upper bound of the maximal length of the longest snake in a box is given by
+$$
+1 + 2^{n-1}\frac{6n}{6n + \frac{1}{6\sqrt{6}}n^{\frac 1 2} - 7}.
+$$
+-/
+@[category research solved, AMS 5]
+theorem snake_upper_bound (n : ℕ) : LongestSnakeInTheBox n
+    ≤ (1 : ℝ) + 2^(n - 1) * (6 * n) / (6 * n + (1/(6 * (6 : ℝ).sqrt)*(n : ℝ).sqrt)) := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/SnakeInTheBox.lean]:
```suggestion
    ≤ (1 : ℝ) + 2 ^ (n - 1) * (6 * n) / (6 * n + (1 / (6 * √6) * √n)) := by
```

File: FormalConjectures/Wikipedia/SnakeInTheBox.lean [hunk 8]
```diff
@@ -0,0 +1,127 @@
...
+  · intro h
+    rw [h]
+    use (⊤ : Subgraph _)
+    simp_all only [csSup_singleton, Subgraph.IsInduced.top, Subgraph.verts_top, true_and]
+    use ∅, ∅
+    simp only [Walk.isPath_iff_eq_nil, Walk.length_eq_zero_iff, exists_eq_left, Walk.support_nil,
+      List.mem_cons, List.not_mem_nil, or_false, Set.setOf_eq_eq_singleton, and_true]
+    symm
+    rw [← Set.toFinset_eq_univ]
+    rfl
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/SnakeInTheBox.lean]: Here's what I would go for (I'll open a Mathlib PR with the simp lemma and other analogous ones, but we might as well also have that in our own `ForMathlib` for the time being)
```suggestion
@[simp]
theorem Finset.univ_finset_of_isEmpty {α : Type*} [h : IsEmpty α] :
    (Set.univ : Set (Finset α)) = {∅} := by
  ext S
  rw [Set.mem_singleton_iff, eq_true (Set.mem_univ S), true_iff]
  ext a
  exact IsEmpty.elim h a

/--
The longest snake in the $0$-dimensional cube, i.e. the cube consisting of one point, is zero,
since there only is one induced path and it is of length zero.
-/
@[category test, AMS 5]
theorem snake_zero_zero : LongestSnakeInTheBox 0 = 0 := by
  simp_rw [LongestSnakeInTheBox, LongestSnakeInGraph, IsSnakeInGraphOfLength, Hypercube]
  convert csSup_singleton 0
  ext n
  refine ⟨fun  ⟨S, ⟨h_induced, ⟨u, ⟨v, ⟨P, ⟨hPath, hSupport, hLength⟩⟩⟩⟩⟩⟩ ↦ ?_, fun h ↦ ?_⟩
  · have hu := Finset.eq_empty_of_isEmpty u
    have hv := Finset.eq_empty_of_isEmpty v
    subst hu hv
    simp_all [hPath, hSupport, hLength]
  · rw [h]
    use (⊤ : Subgraph _), by simp, ∅, ∅
    simp
```

File: FormalConjectures/Wikipedia/SnakeInTheBox.lean [hunk 9]
```diff
@@ -0,0 +1,126 @@
...
+/-
+For dimension $9$, the length of the longest snake in the box is not known.
+This is currently the smallest dimension where this question is open.
+--/
+@[category research open, AMS 5]
+theorem snake_dim_nine : LongestSnakeInTheBox 9 = answer(sorry) := by
+  sorry
+
+/-
+The best lengths found so far for dimension nine is 190.
```
Comment (mo271) [inline FormalConjectures/Wikipedia/SnakeInTheBox.lean]:
```suggestion
The best length found so far for dimension nine is 190.
```
